US07947715B2
Step 1: Production of N-[(2-chloro-4-iodophenyl)methyl]phthalimide
In a solution of 7.6 g of 1-bromomethyl-2-chloro-4-iodobenzene in 50 mL of N,N-dimethylformamide, 3.7 g of potassium phthalimide was added, and stirred at room temperature for 1 hour. After the completion of the reaction, the reaction mixture was diluted with 80 mL of ethyl acetate, washed with water (30 mL×2), and then dehydrated with and dried over saturated sodium chloride aqueous solution and anhydrous sodium sulfate in that order, and the solvent was distilled off under reduced pressure to obtain 5.7 g of the aimed product as white crystal.

reactant | 1-bromomethyl-2-chloro-4-iodobenzene | 7.6 g | BrCC1=C(C=C(C=C1)I)Cl | C7H5BrClI
reactant | potassium phthalimide | 3.7 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | N-[(2-chloro-4-iodophenyl)methyl]phthalimide | 5.7 g | ClC1=C(C=CC(=C1)I)CN1C(C=2C(C1=O)=CC=CC2)=O | C15H9ClINO2
